US06900225B2
6,7-Difluoro-1-[(1R, 2S)-2-fluoro-1-cyclopropyl]-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid:
A mixture of ethyl 6,7-difluoro-1-[(1R, 2S)-2-fluoro-1-cyclopropyl]-8-methoxy-1,4-dihydro-4-oxoquinoline-3-carboxylate (120.8 g; 354.1 mmol), glacial acetic acid (210 ml), and conc. hydrochloric acid (420 ml) was refluxed for 6 hours, followed by cooling. The cooled reaction mixture was poured into ice/water (1500 ml) while being stirred, and the mixture was stirred for an additional 30 minutes at room temperature. Crystals precipitated were collected by filtration, and the crystals were sequentially washed with an excessive amount of purified water, ethanol (300 ml), and diethyl ether (500 ml). The crystals were purified through recrystallization from ethanol-acetone (also through treatment with activated carbon and filtration), followed by drying under reduced pressure at 70° C., to thereby yield 107.0 g of the title compound as white needles (yield: 96.5%).

reactant | ethyl 6,7-difluoro-1-[(1R, 2S)-2-fluoro-1-cyclopropyl]-8-methoxy-1,4-dihydro-4-oxoquinoline-3-carboxylate | 354.1 mmol, 120.8 g | FC=1C=C2C(C(=CN(C2=C(C1F)OC)[C@H]1[C@H](C1)F)C(=O)OCC)=O | C16H14F3NO4
reactant | hydrochloric acid | 420 ml | Cl | ClH
solvent | acetic acid | 210 ml | C(C)(=O)O | C2H4O2
product | 6,7-Difluoro-1-[(1R, 2S)-2-fluoro-1-cyclopropyl]-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid | yield 107.0 g, yield: 96.5% | FC=1C=C2C(C(=CN(C2=C(C1F)OC)[C@H]1[C@H](C1)F)C(=O)O)=O | C14H10F3NO4
